US07183277B2
3.5 ml (25 mmol) of triethylamine are added to a solution of 2.68 g (12.1 mmol) of 1-(4-aminophenyl)-6-methylsulfanyl-2,3,4,5-tetrahydro-pyridinium iodide and 1.01 g (12.1 mmol) of O-methylhydroxylammonium chloride in 30 ml of ethanol, and the mixture is stirred at room temperature for 20 hours. The reaction mixture is evaporated and taken up in water, and the resultant precipitate is filtered off, giving 1-(4-aminophenyl)-piperidin-2-one O-methyl oxime as a colourless solid; ESI 220.

reactant | triethylamine | 25 mmol, 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(4-aminophenyl)-6-methylsulfanyl-2,3,4,5-tetrahydro-pyridinium iodide | 12.1 mmol, 2.68 g | [I-].NC1=CC=C(C=C1)[N+]=1CCCCC1SC
reactant | O-methylhydroxylammonium chloride | 12.1 mmol, 1.01 g | [Cl-].CO[NH3+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(4-aminophenyl)-piperidin-2-one O-methyl oxime | CON=C1N(CCCC1)C1=CC=C(C=C1)N | C12H17N3O
